US08431563B2
A 100 mL round-bottomed flask was charged with (3S)-3-methyl-4-(4-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)phenyl)-1-piperazinecarboxylate (0.250 g, 0.565 mmol) and 10 mL of 4N HCl in dioxane. After 2 h at room temperature, the mixture was concentrated to give (S)-1,1,1,3,3,3-hexafluoro-2-(4-(2-methylpiperazin-1-yl)phenyl)-2-propanol hydrochloride as a yellow foam (0.214 g) which was used without purification.

reactant | (3S)-3-methyl-4-(4-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)phenyl)-1-piperazinecarboxylate | 0.565 mmol, 0.250 g | C[C@H]1CN(CCN1C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C(=O)[O-]
reactant | HCl | 4N, 10 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-1,1,1,3,3,3-hexafluoro-2-(4-(2-methylpiperazin-1-yl)phenyl)-2-propanol hydrochloride | 0.214 g | Cl.FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1[C@H](CNCC1)C)(F)F | InChI=1S/C14H16F6N2O.ClH/c1-9-8-21-6-7-22(9)11-4-2-10(3-5-11)12(23,13(15,16)17)14(18,19)20;/h2-5,9,21,23H,6-8H2,1H3;1H/t9-;/m0./s1
